US07683060B2
Step 4. (2S)-2-amino-N,N-dimethylbutanamide hydrochloride
Triethylamine (201.9 μL, 1.500 mmol) was added to a solution of (2S)-2-[(tert-butoxycarbonyl)amino]butanoic acid (101.6 mg, 0.500 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (221.1 mg, 0.500 mmol) in DCM (5 mL), followed by addition of 2.0 M of dimethylamine in tetrahydrofuran (0.500 mL). The mixture was stirred at RT for 4 h. The organic layer was separated. The aqueous layer was extracted with DCM (3×5 mL). The combined organic layers were washed with NaHCO3 (7.5%), and brine, dried over Na2SO4, filtered, and concentrated. The residue was treated with HCl in dioxane (4 M, 1.0 mL) at RT for 4 h. The volatiles were evaporated under reduced pressure. The residue was washed with ether and dried in-vacuo to give the desired product which was directly used in the next step without further purification. Analytical LCMS: (M+H)+=131.1.

reactant | Triethylamine | 1.500 mmol, 201.9 μL | C(C)N(CC)CC | C6H15N
reactant | (2S)-2-[(tert-butoxycarbonyl)amino]butanoic acid | 0.500 mmol, 101.6 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.500 mmol, 221.1 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | dimethylamine | 2.0 M | CNC | C2H7N
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 0.500 mL | O1CCCC1 | C4H8O
product | (2S)-2-amino-N,N-dimethylbutanamide hydrochloride | Cl.N[C@H](C(=O)N(C)C)CC | InChI=1S/C6H14N2O.ClH/c1-4-5(7)6(9)8(2)3;/h5H,4,7H2,1-3H3;1H/t5-;/m0./s1
